US05064751
In 1 l of methanol was dissolved 180 g of monomethyl terephthalate, and the solution was slowly added dropwise to 500 ml of hydrazine hydrate (50%) at room temperature while stirring. After the drop-wise addition, the mixture was heat-refluxed for 5 hours while stirring. A hydrochloric acid aqueous solution was slowly added to the reaction mixture to adjust to a pH of about 1 to thereby precipitate white crystals. Two liters of water was added to the system, followed by stirring for a while. The formed crystals were collected by filtration under reduced pressure, washed twice with 200 ml of water, and dried to obtain 160 g of p-carboxybenzhydrazide (melting point: 235-236° C.).

reactant | monomethyl terephthalate | 180 g | C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC
reactant | hydrazine hydrate | 500 ml | O.NN
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 1 l | CO | CH4O
product | p-carboxybenzhydrazide | 160 g | C(=O)(O)C1=CC=C(C(=O)NN)C=C1 | C8H8N2O3
